US07767796B2
Step (c): N,N′-Bis(2-amino-ethyl)-2-(2-benzyloxyethyl)-1,3-diaminopropane
N,N′-Bis-(2-aminoethyl)-2-(2-benzyloxy-ethyl)malonamide (3.80 g) was dissolved in THF (20 mL) and the flask was immersed in an ice bath. The flask was flushed with argon and THF borane complex (80 mL, 1 M in THF) was added through a syringe. The reaction mixture was allowed to warm up to room temp. and then stirred at 40° C. for 2 days and refluxed for 1 h. Methanol (50 mL) was added dropwise and the solution was stirred at 40 overnight. The solvents were removed by rotary evaporator and the residue was dissolved in methanol (20 mL). Sodium hydroxide (10 g in 15 mL of water) was added and the methanol was boiled away. A colourless oil separated that was extracted into CH2Cl2 (3×50 mL). The solution was dried over Na2SO4. Removal of the solvent gave 3.40 g of colourless oil.

reactant | N,N′-Bis-(2-aminoethyl)-2-(2-benzyloxy-ethyl)malonamide | 3.80 g | NCCNC(C(C(=O)NCCN)CCOCC1=CC=CC=C1)=O | C16H26N4O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N,N′-Bis(2-amino-ethyl)-2-(2-benzyloxyethyl)-1,3-diaminopropane | 3.40 g | NCCNCC(CNCCN)CCOCC1=CC=CC=C1 | C16H30N4O
